US08957105B2
Step 4: Synthesis of 3-[1-(4-Carbamoyl-thiazol-2-yl)-5-(4-methoxy-phenyl)-1H-pyrrol-2-yl]-propionic acid (1D,R1=4-carbamoyl-thiazol-2-yl, R2=4-methoxy-phenyl)
To 3-[1-(4-Carbamoyl-thiazol-2-yl)-5-(4-methoxy-phenyl)-1H-pyrrol-2-yl]-propionic acid ethyl ester (0.15 mmol) in a 2:1 mixture of methanol/THF was added 2M LiOH (0.30 mmol). The reaction mixture was stirred for 24 hours. The solvent was removed in vacuo. The residue was diluted with water (2 mL) and extracted with ethyl ether. The pH of the aqueous layer was adjusted to 2 with 1N HCl. The resulting suspension was filtered; the solid was washed with water and dried to give the final compound. Yield: 36 mg, 69%.

reactant | 3-[1-(4-Carbamoyl-thiazol-2-yl)-5-(4-methoxy-phenyl)-1H-pyrrol-2-yl]-propionic acid ethyl ester | 0.15 mmol | C(C)OC(CCC=1N(C(=CC1)C1=CC=C(C=C1)OC)C=1SC=C(N1)C(N)=O)=O | C20H21N3O4S
reactant | LiOH | 0.30 mmol, 2M | [Li+].[OH-]
solvent | methanol THF | CO.C1CCOC1
product | 3-[1-(4-Carbamoyl-thiazol-2-yl)-5-(4-methoxy-phenyl)-1H-pyrrol-2-yl]-propionic acid | C(N)(=O)C=1N=C(SC1)N1C(=CC=C1C1=CC=C(C=C1)OC)CCC(=O)O | C18H17N3O4S
